US03963756
To hydrogenate the intermediate condensation product [IV] or [IVa] selectively into the final product [I] or [Ib] in the second step of the process according to the second aspect of the present invention, the intermediate condensation product [IV] or [IVa] is preferably subjected to a catalytic hydrogenation which can normally be carried out at room temperature and atmospheric pressure in the presence of a usual hydrogenation catalyst, e.g., platinum, palladium, rhodium, Raney nickel, etc. Platinum, palladium and rhodium, etc. can be supported by a suitable carrier such as carbon or alumina, if desired. This catalytic hydrogenation is preferably effected in a solution of the intermediate condensation product [IV] or [IVa] in an organic solvent such as ethanol, tetrahydrofuran, dioxan and acetic acid etc. The hydrogenation catalyst is generally used in an amount of 0.01% to 10% by weight of the intermediate condensation product. The catalytic hydrogenation can be continued until 1 mol. equivalent of hydrogen is absorbed by the reaction mixture. When the hydrogenation has been completed, the reaction mixture is freed from the catalyst, e.g. by filtration, and then distilled to remove the solvent. In this way, the derivative of 6-methyl-2H-pyran-2,4(3H)-dione [I] or [Ib] is obtained in a substantially quantitative yield, and it then can be purified by recrystillization, silica gel chromatography, alumina chromatography or any other suitable purification method to give the final product in a pure state and in an excellent yield.

reactant | ethanol | C(C)O | C2H6O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | dioxan | O1CCOCC1 | C4H8O2
catalyst | Raney nickel | [Ni] | Ni
catalyst | platinum | [Pt] | Pt
catalyst | palladium | [Pd] | Pd
catalyst | rhodium | [Rh] | Rh
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-methyl-2H-pyran-2,4(3H)-dione | quantitative yield | CC1=CC(CC(O1)=O)=O | C6H6O3
